US08030346B2
Preparation of N-((7-Hydroxy-2,4-dimethyl-5-oxo-4,5-dihydro[1,3]thiazolo[4,5-b]pyridin-6-yl)carbonyl)glycine
tert-Butyl 2-(7-hydroxy-2,4-dimethyl-5-oxo-4,5-dihydrothiazolo[4,5-b]pyridine-6-carboxamido)acetate. N,N-diisopropylethylamine (0.25 g, 2.0 mmol), tert-butyl glycine ester hydrochloride (0.33 g, 2.0 mmol) and ethyl 7-hydroxy-2,4-dimethyl-5-oxo-4,5-dihydrothiazolo[4,5-b]pyridine-6-carboxylate (0.35 g, 1.31 mmol) were heated at 90° C. for 5 hours in 1,4-dioxane (5 mL). The mixture was cooled to room temperature and concentrated to about ¼ of the original volume. Et2O (5 mL) was added, and the resulting suspension was filtered and washed with Et2O to give a solid. This material was washed with cold MeOH (0.5 mL) to give the title compound. MS (ESI) m/z: Calculated; 353.1: Observed; 298.1 (M-tert-butyl+H+). 1H NMR (400 MHz, CDCl3) δ ppm 10.52-10.83 (1H, m), 4.11 (2H, d, J=5.3 Hz), 3.81 (3H, s), 2.83 (3H, s), 1.52 (9H, s)

reactant | tert-Butyl 2-(7-hydroxy-2,4-dimethyl-5-oxo-4,5-dihydrothiazolo[4,5-b]pyridine-6-carboxamido)acetate | OC=1C2=C(N(C(C1C(=O)NCC(=O)OC(C)(C)C)=O)C)N=C(S2)C | C15H19N3O5S
reactant | N,N-diisopropylethylamine | 2.0 mmol, 0.25 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl 7-hydroxy-2,4-dimethyl-5-oxo-4,5-dihydrothiazolo[4,5-b]pyridine-6-carboxylate | 1.31 mmol, 0.35 g | OC=1C2=C(N(C(C1C(=O)OCC)=O)C)N=C(S2)C | C11H12N2O4S
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-((7-Hydroxy-2,4-dimethyl-5-oxo-4,5-dihydro[1,3]thiazolo[4,5-b]pyridin-6-yl)carbonyl)glycine | OC=1C2=C(N(C(C1C(=O)NCC(=O)O)=O)C)N=C(S2)C | C11H11N3O5S
